US09447106B2
Step 1: 2-(2-Fluoro-5-nitrophenyl)ethanol
To a solution of 2-(2-fluoro-5-nitrophenyl)acetic acid (2.0 g, 10 mmol) in THF (50 mL) was added borane dimethyl sulfide complex solution (4.0 g, 25 mmol). The reaction was warmed to 60° C. stirred for about 12 hr. After cooling down to RT, CH3OH (20 mL) was slowly added to the reaction, concentrated under reduced pressure to remove solvent. The residue was purified by column chromatography on silica gel (200-300 mesh, PE/EA=2/1) to afford the product as a colorless oil (1.6 g, 86.1%). 1H NMR (400 MHz, DMSO-d6) δ 8.27 (t, J=3.2, 6.4 Hz, 1 H), 8.19-8.14 (m, 1 H), 8.45 (t, J=9.2 Hz, 1 H), 4.80 (t, J=5.6 Hz, 1 H), 3.66 (dt, J=5.6, 6.4 Hz, 1 H), 2.86 (t, J=6.4 Hz, 2 H). MS (ESI) m/e [M+1]+ 186.

reactant | 2-(2-fluoro-5-nitrophenyl)acetic acid | 10 mmol, 2.0 g | FC1=C(C=C(C=C1)[N+](=O)[O-])CC(=O)O | C8H6FNO4
reactant | CH3OH | 20 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(2-Fluoro-5-nitrophenyl)ethanol | 1.6 g, 86.1% | FC1=C(C=C(C=C1)[N+](=O)[O-])CCO | C8H8FNO3
